US07205291B2
A mixture of 5-acetylthiophene-2-carboxylic acid (41.44 g), p-toluenesulfonic acid monohydrate (926 mg), ethylene glycol (226 g) and toluene (500 ml) was refluxed under heating for 13 hours and subjected to azeotropic dehydration. The reaction mixture was washed with a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give a brawn solution. This product was dissolved in THF (500 ml) and the solution was gradually dropped to a mixture of lithium aluminum hydride (19.22 g) and THF (750 ml) under ice cooling. Two hours later, thereto was added a 10% aqueous sodium hydroxide solution (1000 ml). After the removal of insoluble materials, the filtrate was extracted with ethyl acetate. The organic layer was washed with water (twice) and was dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give [5-(2-methyl-1,3-dioxolan-2-yl)thien-2-yl]methanol. This product was used in the next step without purification.

reactant | 5-acetylthiophene-2-carboxylic acid | 41.44 g | C(C)(=O)C1=CC=C(S1)C(=O)O | C7H6O3S
reactant | p-toluenesulfonic acid monohydrate | 926 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | lithium aluminum hydride | 19.22 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1000 ml | [OH-].[Na+]
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 750 ml | C1CCOC1 | C4H8O
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethylene glycol | 226 g | C(CO)O | C2H6O2
product | [5-(2-methyl-1,3-dioxolan-2-yl)thien-2-yl]methanol | CC1(OCCO1)C1=CC=C(S1)CO | C9H12O3S
